US06613879B1
Synthesis of Pro-Pro-4-methoxy-β-naphthylamide:
Boc-Pro (32 mg, 0.15 mmol), 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluoronium tetrafluoroborate (53 mg, 0.15 mmol) and Pro-4-methoxy-β-naphthylamide hydrochloride (46 mg, 0.15 mmol) were dissolved in anhydrous N,N-dimethylformamide/tetrahydrofuiran 1:1 (4 ml). N-ethyldiisopropylamine (0.26 ml, 0.44 mmol) dissolved in N-methylpyrrolidone (1.7 molar) was added and the mixture was stirred at room temperature overnight.

reactant | Boc-Pro | 0.15 mmol, 32 mg | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | 4-methoxy-β-naphthylamide hydrochloride | 0.15 mmol, 46 mg | Cl.COC1=CC(=CC2=CC=CC=C12)[NH-]
reactant | N-ethyldiisopropylamine | 0.44 mmol, 0.26 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 1.7 molar | CN1C(CCC1)=O | C5H9NO
product | Pro-Pro 4-methoxy-β-naphthylamide | C1C[C@H](NC1)C(=O)N2CCC[C@H]2C(=O)O.COC1=CC(=CC2=CC=CC=C12)[NH-] | InChI=1S/C11H10NO.C10H16N2O3/c1-13-11-7-9(12)6-8-4-2-3-5-10(8)11;13-9(7-3-1-5-11-7)12-6-2-4-8(12)10(14)15/h2-7,12H,1H3;7-8,11H,1-6H2,(H,14,15)/q-1;/t;7-,8-/m.0/s1
